US07851473B2
A 4 N solution (50 ml) of hydrogen chloride in ethyl acetate was added to a solution of tert-butyl 4-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate (4.20 g, 11.0 mmol) in ethyl acetate (100 ml), and the mixture was stirred at room temperature for 14 hours. Hexane was added to the reaction mixture, and crystals were collected by filtration to give 1-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine hydrochloride. The hydrochloride was dissolved in water, neutralized with a 1 N sodium hydroxide aqueous solution, and extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give 1.76 g (56.8%) of the desired product as a solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 11.0 mmol, 4.20 g | FC1=C(C=CC=C1F)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H21F2N3O2S
reactant | Hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine hydrochloride | Cl.FC1=C(C=CC=C1F)C=1N=C(SC1)N1CCNCC1 | InChI=1S/C13H13F2N3S.ClH/c14-10-3-1-2-9(12(10)15)11-8-19-13(17-11)18-6-4-16-5-7-18;/h1-3,8,16H,4-7H2;1H
